US07566805B2
To a solution of NH4Cl (0.29 mol, 2.0 eq) and NH4OH (300 ml) in methanol (200 mL) was added a solution of benzhydrylthioacetate (38.2 g, 0.145 mol) in methanol (50 ml) maintaining the temperature below 20° C. The reaction was stirred for 1 hour and diluted with water (100 ml) resulting in the formation of a precipitate. The precipitate was collected, washed with water and dried to give benzhydrylthioacetamide (31 g) as colorless solid.

reactant | NH4Cl | 0.29 mol, 2.0 eq | [NH4+].[Cl-]
reactant | NH4OH | 300 ml | [NH4+].[OH-]
reactant | benzhydrylthioacetate | 0.145 mol, 38.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)CC(=S)[O-]
solvent | methanol | 200 mL | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | benzhydrylthioacetamide | 31 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)CC(=S)N | C15H15NS
